US09353081B2
[B] (rac)-4-Bromo-7-methyl-6,7-dihydro-5H-isoquinolin-8-one
(rac)-4-Bromo-7-methyl-8-oxo-5,6,7,8-tetrahydro-isoquinoline-7-carboxylic acid methyl ester (3.3 g, 11.0 mmol) was dissolved in aq. 6 N HCl (28.0 mL, 168 mmol) and heated at reflux for 2.5 h. The acidic solution was concentrated in vacuo, re-suspended in water (ca. 25 mL), cooled in an ice-water bath, and basified with 6 N aq. KOH solution. The aqueous solution was then washed with Et2O (2×) and DCM (3×). The combined organic layers were dried over anhy. Na2SO4, filtered and concentrated in vacuo to afford the title compound (2.38 g, 90% yield) as a brown solid. MS: 240.1 & 242.1 (M+H)+.

reactant | (rac)-4-Bromo-7-methyl-8-oxo-5,6,7,8-tetrahydro-isoquinoline-7-carboxylic acid methyl ester | 11.0 mmol, 3.3 g | COC(=O)C1(CCC=2C(=CN=CC2C1=O)Br)C | C12H12BrNO3
reactant | HCl | 168 mmol, 6 N, 28.0 mL | Cl | ClH
product | (rac)-4-Bromo-7-methyl-6,7-dihydro-5H-isoquinolin-8-one | 2.38 g, 90% yield | BrC1=CN=CC=2C(C(CCC12)C)=O | C10H10BrNO
